US06964966B2
Mixtures A+B of 4-methylamino-1-carbethoxy-3,5-dimethylpiperidine (1.3 g, 0.6 mmol) was stirred in a mixture of 10% NaOH solution (20 ml) and ethyl alcohol (10 ml) at 100° C. for 120 hr, cooled, extracted with ethyl acetate, dried (Na2SO4) and concentrated to afford a Mixtures A+B of 4-methylamino-3,5-dimethylpiperidine. Yield 0.61 g (70%), C8H18N2, m/z 143 (M+1).

reactant | 4-methylamino-1-carbethoxy-3,5-dimethylpiperidine | 0.6 mmol, 1.3 g | CNC1C(CN(CC1C)C(=O)OCC)C | C11H22N2O2
solvent | NaOH | 20 ml | [OH-].[Na+]
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
product | 4-methylamino-3,5-dimethylpiperidine | CNC1C(CNCC1C)C | C8H18N2
